US09422275B2
To a solution of N-(4-(4-(4-(2-(2-(2-(2-azidoethoxyl)ethoxy)ethoxy)ethoxy)piperidin-1-yl)-2,6-dimethylphenyl)thiazol-2-yl)isonicotinamide (4.7 mg, 0.0077 mmol) in EtOH (1 mL) was added Pd/C (10% Pd, 3 mg). The mixture was hydrogenated overnight at room temperature under 1 atm H2 pressure. The mixture was then filtered through a pad of celite and concentrated to give N-(4-(4-(4-(2-(2-(2-(2-amino ethoxy)ethoxy)ethoxy)ethoxy)piperidin-1-yl)-2,6-dimethylphenyl)thiazol-2-yl)isonicotinamide (1.1 mg, yield 24.5%), which was used directly without further purification.

reactant | N-(4-(4-(4-(2-(2-(2-(2-azidoethoxyl)ethoxy)ethoxy)ethoxy)piperidin-1-yl)-2,6-dimethylphenyl)thiazol-2-yl)isonicotinamide | 0.0077 mmol, 4.7 mg | N(=[N+]=[N-])CCOCCOCCOCCOC1CCN(CC1)C1=CC(=C(C(=C1)C)C=1N=C(SC1)NC(C1=CC=NC=C1)=O)C | C30H39N7O5S
solvent | EtOH | 1 mL | CCO | C2H6O
catalyst | Pd/C | 3 mg | [Pd] | Pd
product | N-(4-(4-(4-(2-(2-(2-(2-amino ethoxy)ethoxy)ethoxy)ethoxy)piperidin-1-yl)-2,6-dimethylphenyl)thiazol-2-yl)isonicotinamide | 1.1 mg, yield 24.5% | NCCOCCOCCOCCOC1CCN(CC1)C1=CC(=C(C(=C1)C)C=1N=C(SC1)NC(C1=CC=NC=C1)=O)C | C30H41N5O5S
